US08278457B2
To a solution of (3S,4S)-4-(4-bromophenoxy)tetrahydrofuran-3-amine (65.6 g, 0.254 mol) in methylene chloride (500 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 53 mL, 0.35 mol). The reaction mixture was cooled to 0° C. and propane-2-sulfonyl chloride (31.2 mL, 0.28 mol) was added drop-wise. The mixture was then stirred at room temperature for 18 hours. The reaction was monitored by proton NMR: additional propane-2-sulfonyl chloride (2.8 mL, 25 mmol) was added and the mixture was stirred at room temperature for an additional 18 hours. Again the reaction was monitored by NMR and additional propane-2-sulfonyl chloride (2.8 mL, 25 mmol) was added. After 2.5 hours the reaction was complete according to NMR analysis. Water (500 mL) was added and the layers were separated. The aqueous layer was extracted with methylene chloride, and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in methylene chloride and washed with aqueous hydrochloric acid (1N, 2×300 mL), dried over sodium sulfate, filtered and concentrated in vacuo to afford N-[(3S,4S)-4-(4-bromophenoxy)tetrahydrofuran-3-yl]propane-2-sulfonamide as an orange/brown oil. Yield: 92.5 g, 0.254 mol, 100%. 1H NMR (300 MHz, CDCl3) δ 1.36 (d, J=7 Hz, 3H), 1.38 (d, J=7 Hz, 3H), 3.15 (septet, J=7 Hz, 1H), 3.69 (dd, J=8.5, 8.5 Hz, 1H), 3.93 (dd, J=10.6, 1.5 Hz, 1H), 4.10-4.28 (m, 3H), 4.72-4.81 (m, 2H), 6.77 (d, J=9.1 Hz, 2H), 7.41 (d, J=9.1 Hz, 2H). The absolute configuration of this material was established via X-ray crystallographic analysis of a crystal of N-[(3S,4S)-4-(4-bromophenoxy)tetrahydrofuran-3-yl]propane-2-sulfonamide grown from a heptane/ethyl acetate solution. The results are described below.

reactant | (3S,4S)-4-(4-bromophenoxy)tetrahydrofuran-3-amine | 0.254 mol, 65.6 g | BrC1=CC=C(O[C@H]2[C@H](COC2)N)C=C1 | C10H12BrNO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.35 mol, 53 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | propane-2-sulfonyl chloride | 0.28 mol, 31.2 mL | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | propane-2-sulfonyl chloride | 25 mmol, 2.8 mL | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | propane-2-sulfonyl chloride | 25 mmol, 2.8 mL | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | Water | 500 mL | O | H2O
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | N-[(3S,4S)-4-(4-bromophenoxy)tetrahydrofuran-3-yl]propane-2-sulfonamide | BrC1=CC=C(O[C@H]2[C@H](COC2)NS(=O)(=O)C(C)C)C=C1 | C13H18BrNO4S
